US03965181
This preparation illustrates methods according to step 3 of the process for preparing the compounds of formula A. In this preparation a solution containing 0.25 g. of 5-(3-hydroxy-prop-1-ynyl)-5H-dibenzo[a,d]cycloheptene in 25 ml. of anhydrous methylene chloride containing 0.25 ml. of triethylamine is stirred and cooled to maintain the temperature between 0°C and -10°C and 0.15 ml. of methanesulfonyl chloride is added. Cooling is then discontinued and the temperature of the mixture allowed to rise, with stirring, for 15 minutes. The solution is then poured into ice water, resulting in a two-phase organic-aqueous mixture. The organic layer is separated and washed successively with ice cold 1Normal aqueous hydrochloric acid, water, and saturated brine, and then dried over sodium sulfate and evaporated under vacuum yielding 5-(3-methanesulfonyloxyprop-1-ynyl)-5H-dibenzo[a,d] cycloheptene which is of sufficient purity to be used directly as starting material for subsequent examples.

reactant | 5-(3-hydroxy-prop-1-ynyl)-5H-dibenzo[a,d]cycloheptene | OCC#CC1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C18H14O
reactant | methylene chloride | 0.25 ml | C(Cl)Cl | CH2Cl2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 5-(3-methanesulfonyloxyprop-1-ynyl)-5H-dibenzo[a,d] cycloheptene | CS(=O)(=O)OCC#CC1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C19H16O3S
